2153-12-26 08:23:00 Physician Attending Progress Note
HPI:
   20yoF admitted with acetaminophen and benadryl overdose.
   24 Hour Events:
   Following admission to ICU; had arterial line placed.  Mental status
   gradually improved.  Received 2L D5 1/2NS with bicarbonate with
   improvement in her acidosis.  ALT/AST trending downwards, though
   bilirubin continues to rise.  INR stable at 1.5.
   Allergies: NKDA
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-12-26**] 05:31 AM
   Other medications:
   NAC
   Famotidine
   Insulin sliding scale
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2153-12-26**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 104 (98 - 141) bpm
   BP: 138/85(104) {104/76(85) - 146/95(111)} mmHg
   RR: 24 (20 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,971 mL
                                                                  1,871 mL
   PO:
             TF:
   IVF:
                                                                  1,971 mL
                                                                  1,871 mL
   Blood products:
   Total out:
                                                                  2,135 mL
                                                                    170 mL
   Urine:
                                                                  1,360 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,836 mL
                                                                  1,701 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.42/24/118/18
   Physical Examination
   Gen: Awake, NAD; oriented to person, knows
hospital
 place
[**Hospital1 190**]
   Chest:  Lungs clear
   CV: RRR no murmur
   Abd: s/nt/nd
   Ext: no edema
   Neuro: no asterixis
   Labs / Radiology
   12.4 g/dL
   328 K/uL
   191 mg/dL
   0.8 mg/dL
   18 mEq/L
   3.6 mEq/L
   8 mg/dL
   113 mEq/L
   142 mEq/L
   36.1 %
   7.0 K/uL
        [image002.jpg]
                             [**2153-12-25**]  09:27 PM
                             [**2153-12-25**]  09:36 PM
                             [**2153-12-26**]  05:32 AM
   WBC
   9.6
   7.0
   Hct
   40.5
   36.1
   Plt
   388
   328
   Cr
   0.8
   0.8
   TCO2
   16
   Glucose
   122
   191
   Other labs: PT / PTT / INR:17.2/35.0/1.5, CK / CKMB / Troponin-T:632//,
   ALT / AST:268/115, Alk Phos / T Bili:36/2.9, Differential-Neuts:78.3 %,
   Lymph:15.0 %, Mono:6.2 %, Eos:0.2 %, LDH:189 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Liver U/S: pending
   Assessment and Plan
   20yoF s/p suicide attempt with Tylenol PM causing APAP and
   anticholinergic toxicity.
   1. APAP:  AST/ALT trending down; bili up, INR stable
   - will continue to follow LFTs, coags q4h
   - NAC
   - Follow glucose/neuro exam
   - Liver service following
   - Pre-transplant liver evaluation in case worsens
   - Psych to see regarding suicide attempt
   - Social work to see
   2.  Anticholinergic toxicity:
   - Improving mental status and toxidrome.
   3. Acidosis:  Tox screen without other explanation.
   - Improving with bicarbonate and IVF hydration.
   - + ketones and mild hyperglycemia, but no history of DM.  Will
   continue to follow glucose and acidosis.
   - Hydrate
   - CXR
   ICU Care
   Nutrition: Ice chips, advance to clears.
   Glycemic Control:  Monitoring glucose with concern for hypoglycemia
   Lines:
   22 Gauge - [**2153-12-25**] 04:56 PM
   Arterial Line - [**2153-12-25**] 09:51 PM
   20 Gauge - [**2153-12-25**] 10:11 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: No indication for PPI/H2
   VAP:  Not intubated
   Communication:  Family updated
   Code status: Full code
   Disposition :  Remains in ICU pending stable labs can call-out later
   today or tomorrow.
   Total time spent:  35minutes CCT

2153-12-26 11:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2153-12-25**] 09:51 PM
 ULTRASOUND - At [**2153-12-25**] 10:21 PM
   liver and spleen
   Mental status significantly improved overnight
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-12-26**] 05:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-12-26**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 108 (90 - 141) bpm
   BP: 143/98(114) {104/76(85) - 146/98(114)} mmHg
   RR: 18 (18 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,971 mL
                                                                  1,969 mL
   PO:
             TF:
   IVF:
                                                                  1,971 mL
                                                                  1,969 mL
   Blood products:
   Total out:
                                                                  2,135 mL
                                                                    670 mL
   Urine:
                                                                  1,360 mL
                                                                    570 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,836 mL
                                                                  1,299 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.41/32/115/18/-2
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   328 K/uL
   12.4 g/dL
   191 mg/dL
   0.8 mg/dL
   18 mEq/L
   3.6 mEq/L
   8 mg/dL
   113 mEq/L
   142 mEq/L
   36.1 %
   7.0 K/uL
        [image002.jpg]
                             [**2153-12-25**]  09:27 PM
                             [**2153-12-25**]  09:36 PM
                             [**2153-12-26**]  05:32 AM
                             [**2153-12-26**]  08:17 AM
   WBC
   9.6
   7.0
   Hct
   40.5
   36.1
   Plt
   388
   328
   Cr
   0.8
   0.8
   TCO2
   16
   21
   Glucose
   122
   191
   Other labs: PT / PTT / INR:17.2/35.0/1.5, CK / CKMB / Troponin-T:354//,
   ALT / AST:268/115, Alk Phos / T Bili:36/2.9, Differential-Neuts:78.3 %,
   Lymph:15.0 %, Mono:6.2 %, Eos:0.2 %, Lactic Acid:2.3 mmol/L, LDH:189
   IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   :  20 yo F w/ APAP OD and anticholinergic toxidrome.
   #  Anticholinergic toxidrome: Appears Significantly improved, decreased
   myoclonic jerking.
   - Q4 neuro checks
   .
   # APAP OD: Transaminases trending downward, Tbili climbing. Hepatology
   thinks that she looks good and may be possible to call out to the floor
   today.
   - Transplant surgery following
   - Consult SW [**First Name8 (NamePattern2) 3274**] [**Last Name (NamePattern1) 1441**]
   - consult psyc
   - Q4 LFTs and coags
   - Q4 neuro checks
   - F/u pre-transplant liver battery and HIV per hepatology team
   - F/U RUQ U/S
   .
   # AG metabolic acidosis: Improving
   - Loose SSI
   - follow finger sticks
   .
   #Nuvaring: Per mother pt. has been using nuvaring for birth control
   - pelvic exam to remove ring in am if mental status clears
   .
   .
   # FEN: IVFs NPO for now given vomiting
   # PPX: famotidine, heparin SQ
   # ACCESS: [**Last Name (LF) 3173**], [**First Name3 (LF) 1619**]
   # CODE:  Full confirmed w/ Mother
   # CONTACT:  Father and mother.
   # DISPO: ICU

2153-12-27 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2153-12-26**] 12:36 PM
 MULTI LUMEN - START [**2153-12-26**] 06:38 PM
   LFTs and INR worsened but mental status stable, continued on NAC
   CVL placed in anticipation of worsening coagulopathy later
   Sent further transplant labs in anticipation of worsening
   UOP trended down but improved with increased IVF and bolus
   Started on clears but still having N/V, liver ok with zofran
   U/S showing starry [**Hospital Ward Name **] appearance consistent with acute hepatitis
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-12-27**] 06:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-12-27**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 68 (62 - 119) bpm
   BP: 137/74(91) {120/74(86) - 138/90(99)} mmHg
   RR: 18 (17 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (6 - 17)mmHg
   Total In:
                                                                  5,407 mL
                                                                  1,403 mL
   PO:
   TF:
   IVF:
                                                                  5,407 mL
                                                                  1,403 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    440 mL
   Urine:
                                                                  1,140 mL
                                                                    440 mL
   NG:
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                  3,717 mL
                                                                    964 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.41/32/115/26/-2
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   11.0 g/dL
   138 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.1 mEq/L
   5 mg/dL
   115 mEq/L
   145 mEq/L
   31.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2153-12-25**]  09:27 PM
                             [**2153-12-25**]  09:36 PM
                             [**2153-12-26**]  05:32 AM
                             [**2153-12-26**]  08:17 AM
                             [**2153-12-26**]  01:30 PM
                             [**2153-12-26**]  04:54 PM
                             [**2153-12-27**]  04:34 AM
   WBC
   9.6
   7.0
   6.0
   Hct
   40.5
   36.1
   31.9
   Plt
   388
   328
   215
   Cr
   0.8
   0.8
   0.8
   0.7
   0.6
   TCO2
   16
   21
   Glucose
   122
   191
   157
   138
   Other labs: PT / PTT / INR:26.1/50.2/2.5, CK / CKMB / Troponin-T:354//,
   ALT / AST:4378/2913, Alk Phos / T Bili:32/1.0, Differential-Neuts:78.3
   %, Lymph:15.0 %, Mono:6.2 %, Eos:0.2 %, Lactic Acid:2.3 mmol/L,
   LDH:2129 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.4 mg/dL
   As 20 yo F w/ APAP OD and anticholinergic toxidrome.
   #  Anticholinergic toxidrome: Appears to be improving, tachycardia
   improving and MS improving. Protecting her airway.
   - Q4 neuro checks
   - Q4hr EKGs
   .
   # APAP OD: Transaminases in the 300s, Tbili climbing. Per hepatology
   team she has a good chance of full recovery w/o transplant. Toxicology
   had recommended activated charcoal but pt. currently vomiting.
   - Transplant surgery following
   - Consult SW [**First Name8 (NamePattern2) 3274**] [**Last Name (NamePattern1) 1441**]
   - consult psyc in am if she is clearing to eval for past suicidal
   attempts
   - Q4 LFTs and coags
   - Q4 neuro checks
   - Send pre-transplant liver battery and HIV per hepatology team
   - RUQ U/S
   .
   # AG metabolic acidosis: Ketones in urine and blood, no osmolar gap.
   She does not have a Hx of diabetes and would be extremely strange to
   p/w DKA in the setting of OD.
   - D5 1/2 NS w/ 1 amp bicarb
   - Loose SSI
   .
   #Nuvaring: Per mother pt. has been using nuvaring for birth control
   - pelvic exam to remove ring in am if mental status clears
   .
   .
   # FEN: IVFs NPO for now given vomiting
   # PPX: famotidine, heparin SQ
   # ACCESS: PIV
   # CODE:  Full confirmed w/ Mother
   # CONTACT:  Father and mother.
   # DISPO: ICU sessment and Plan
 POISONING / OVERDOSE, ACETAMINOPHEN (TYLENOL, APAP)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2153-12-25**] 04:56 PM
   20 Gauge - [**2153-12-25**] 10:11 PM
   Multi Lumen - [**2153-12-26**] 06:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2153-12-27 07:59:00 Physician Attending Progress Note
HPI:
    20yoF with APAP overdose and hepatitis.
   24 Hour Events:
   Worsening LFTs and coags yesterday.  Placed RIJ CVL for access.  Mental
   status remains adequate.  Urine output responded to IVF.
   Allergies: NKDA
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-12-27**] 06:33 AM
   Other medications:
   NAC IV
   Insulin sliding scale
   Zofran
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-12-27**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 68 (62 - 119) bpm
   BP: 137/74(91) {120/74(86) - 138/90(99)} mmHg
   RR: 18 (17 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 9 (6 - 17)mmHg
   Total In:
                                                                  5,407 mL
                                                                  1,476 mL
   PO:
   TF:
   IVF:
                                                                  5,407 mL
                                                                  1,476 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    440 mL
   Urine:
                                                                  1,140 mL
                                                                    440 mL
   NG:
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                  3,717 mL
                                                                  1,036 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.41/32/115/26/-2
   Physical Examination
   Gen: Awake, alert, conversant NAD
   Chest: Clear
   CV: RRR no murmur
   Abd: s/nd/mild epigastric tenderness
   Ext: no edema
   Neuro: Normal neuro exam
   Labs / Radiology
   11.0 g/dL
   215 K/uL
   138 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.1 mEq/L
   5 mg/dL
   115 mEq/L
   145 mEq/L
   31.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2153-12-25**]  09:27 PM
                             [**2153-12-25**]  09:36 PM
                             [**2153-12-26**]  05:32 AM
                             [**2153-12-26**]  08:17 AM
                             [**2153-12-26**]  01:30 PM
                             [**2153-12-26**]  04:54 PM
                             [**2153-12-27**]  04:34 AM
   WBC
   9.6
   7.0
   6.0
   Hct
   40.5
   36.1
   31.9
   Plt
   388
   328
   215
   Cr
   0.8
   0.8
   0.8
   0.7
   0.6
   TCO2
   16
   21
   Glucose
   122
   191
   157
   138
   Other labs: PT / PTT / INR:26.1/50.2/2.5, CK / CKMB / Troponin-T:354//,
   ALT / AST:4378/2913, Alk Phos / T Bili:32/1.0, Differential-Neuts:78.3
   %, Lymph:15.0 %, Mono:6.2 %, Eos:0.2 %, Lactic Acid:2.3 mmol/L,
   LDH:2129 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.4 mg/dL
   Micro: pre-transplant labs pending
   RUQ U/S: c/w acute hepatitis
   Assessment and Plan
   20F with APAP overdose and heptotoxicity.
   1. Acute hepatitis secondary to APAP: INR 2.5 trending upwards, mental
   status stable, glucose wnl.
   - Continue NAC
   - Follow coags/LFTs/glucose/mental status
   - Ensure completion of pre-transplant evaluation if needed
   ICU Care
   Nutrition: Clears, advance as tolerated. IVF.
   Glycemic Control:  Monitor FSG closely
   Lines:
   22 Gauge - [**2153-12-25**] 04:56 PM
   20 Gauge - [**2153-12-25**] 10:11 PM
   Multi Lumen - [**2153-12-26**] 06:38 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:  no indication for ulcer prophylaxis
   VAP:  not intubated
   Communication:  Updated family during rounds
   Code status:  FULL
   Disposition : Remains critically ill in ICU
   Total time spent:  35minutes CCT

2153-12-28 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   LFTs improving, patient was stable, still nauseaus
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-12-27**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-12-28**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.9
   HR: 72 (65 - 91) bpm
   BP: 121/92(98) {106/66(78) - 137/92(98)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (-2 - 12)mmHg
   Total In:
                                                                  4,006 mL
                                                                  1,565 mL
   PO:
   TF:
   IVF:
                                                                  4,006 mL
                                                                  1,565 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                  1,330 mL
   Urine:
                                                                  1,465 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,541 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   GENERAL: Nauseus, sedate
   HEENT:  PERRL
   CARDIAC:  RRR
   LUNG:  CTAB
   ABDOMEN:  Soft, NT, ND, BS+
   EXT:  No edema, 2+ DP and PT pulses
   NEURO:  A&Ox3. CNII-XII intact, moves all four extremities
   independently. Able to do months of the year backwards in 14 seconds.
   No asterixis.
   DERM:  No rashes
   Labs / Radiology
   128 K/uL
   10.8 g/dL
   131 mg/dL
   0.5 mg/dL
   28 mEq/L
   2.5 mEq/L
   5 mg/dL
   107 mEq/L
   142 mEq/L
   30.6 %
   4.7 K/uL
        [image002.jpg]
                             [**2153-12-25**]  09:27 PM
                             [**2153-12-25**]  09:36 PM
                             [**2153-12-26**]  05:32 AM
                             [**2153-12-26**]  08:17 AM
                             [**2153-12-26**]  01:30 PM
                             [**2153-12-26**]  04:54 PM
                             [**2153-12-27**]  04:34 AM
                             [**2153-12-27**]  09:35 PM
                             [**2153-12-28**]  03:48 AM
   WBC
   9.6
   7.0
   6.0
   4.7
   Hct
   40.5
   36.1
   31.9
   31.8
   30.6
   Plt
   388
   328
   215
   128
   Cr
   0.8
   0.8
   0.8
   0.7
   0.6
   0.5
   TCO2
   16
   21
   Glucose
   122
   191
   157
   138
   131
   Other labs: PT / PTT / INR:22.4/51.9/2.1, CK / CKMB / Troponin-T:354//,
   ALT / AST:6630/3480, Alk Phos / T Bili:34/0.8, Differential-Neuts:78.3
   %, Lymph:15.0 %, Mono:6.2 %, Eos:0.2 %, Lactic Acid:2.3 mmol/L,
   Albumin:3.5 g/dL, LDH:1622 IU/L, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan: 20 yo F w/ APAP OD and anticholinergic toxidrome.
   # APAP OD: Transaminases in the increased to 4000 range with elevated
   INR and TBili.  Access placed.  Transplant workup initiated. RUQ U/S
   c/w acute hepatitis.  Transplant workup testing pending.
   - Active type and screen.  Will monitor for bleeding and correct
   coagulopathy as needed.
   - Transplant surgery following
   - Q12h LFTs and coags
   .
   #  Anticholinergic toxidrome: Appears to be improving, tachycardia
   improving and MS improving. Protecting her airway.
   - Continue to follow neurologic exam
   .
   # AG metabolic acidosis:  Resolved.  Initially presented with Ketones
   in urine and blood, no osmolar gap.
   .
   # Nuvaring: in place.
   .
   ICU Care
   # FEN: IVFs and clears.  Advance as tolerated
   # PPX: heparin SQ
   # ACCESS:
   22 Gauge - [**2153-12-25**] 04:56 PM
   20 Gauge - [**2153-12-25**] 10:11 PM
   Multi Lumen - [**2153-12-26**] 06:38 PM
 needs to have clip placed remove in
   24-48 hrs
   # CODE:  Full confirmed w/ Mother
   # CONTACT:  Father and mother.
   # DISPO: ICU sessment and Plan

2153-12-28 10:33:00 Physician Attending Progress Note
HPI:
   20yoF with suicide attempt with APAP and hepatitis.
   24 Hour Events:
   Improving INR overnight down to 2.1 from 2.5.
   Called-out, awaiting bed.
   Allergies: NKDA
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-12-27**] 10:05 PM
   Other medications:
   Mucomyst
   Insulin sliding scale
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-12-28**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 77 (65 - 91) bpm
   BP: 110/66(77) {106/66(77) - 137/92(98)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 8 (-2 - 12)mmHg
   Total In:
                                                                  4,007 mL
                                                                  2,355 mL
   PO:
   TF:
   IVF:
                                                                  4,007 mL
                                                                  2,355 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                  1,890 mL
   Urine:
                                                                  1,465 mL
                                                                  1,890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,542 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Gen: Awake, alert, conversant
   Chest: clear
   CV: RRR no murmur
   Abd: s/nt/nd
   Ext: warm/no edema
   Labs / Radiology
   10.8 g/dL
   128 K/uL
   131 mg/dL
   0.5 mg/dL
   28 mEq/L
   2.5 mEq/L
   5 mg/dL
   107 mEq/L
   142 mEq/L
   30.6 %
   4.7 K/uL
        [image002.jpg]
                             [**2153-12-25**]  09:27 PM
                             [**2153-12-25**]  09:36 PM
                             [**2153-12-26**]  05:32 AM
                             [**2153-12-26**]  08:17 AM
                             [**2153-12-26**]  01:30 PM
                             [**2153-12-26**]  04:54 PM
                             [**2153-12-27**]  04:34 AM
                             [**2153-12-27**]  09:35 PM
                             [**2153-12-28**]  03:48 AM
   WBC
   9.6
   7.0
   6.0
   4.7
   Hct
   40.5
   36.1
   31.9
   31.8
   30.6
   Plt
   388
   328
   215
   128
   Cr
   0.8
   0.8
   0.8
   0.7
   0.6
   0.5
   TCO2
   16
   21
   Glucose
   122
   191
   157
   138
   131
   Other labs: PT / PTT / INR:22.4/51.9/2.1, CK / CKMB / Troponin-T:354//,
   ALT / AST:6630/3480, Alk Phos / T Bili:34/0.8, Differential-Neuts:78.3
   %, Lymph:15.0 %, Mono:6.2 %, Eos:0.2 %, Lactic Acid:2.3 mmol/L,
   Albumin:3.5 g/dL, LDH:1622 IU/L, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   20yoF with APAP overdose.
   1.       APAP:  Improving INR.
   - continue NAC
   - Liver following
   - Transfer to floor
   2.  Suicide attempt
   -  Case d/w psych [**Last Name (LF) 11924**], [**First Name3 (LF) **] need inpt stay, reassess today, sect
   12 for w/e
    - Above d/w father
   Remainder of plan per resident progress note
   ICU Care
   Nutrition: Advance diet as tolerated
   Glycemic Control:  d/c insulin sliding scale
   Lines:
   22 Gauge - [**2153-12-25**] 04:56 PM
   20 Gauge - [**2153-12-25**] 10:11 PM
   Multi Lumen - [**2153-12-26**] 06:38 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: No indication
   VAP: Not intubated
   Communication:  Family and patient updated during rounds
   Code status: Full code
   Disposition : Transfer to floor
   Total time spent:  25minutes